### PR TITLE
[Merged by Bors] - feat: a holomorphic function whose real part is constant is itself constant

### PR DESCRIPTION
**Pull request by kebekus**
As an immediate corollary to the open mapping theorem, show that a holomorphic function whose real part is constant is itself constant.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Complex/OpenMapping.lean [hunk 1]
```diff
@@ -169,3 +172,51 @@ theorem AnalyticOnNhd.is_constant_or_isOpen (hg : AnalyticOnNhd ℂ g U) (hU : I
     rintro z ⟨w, hw1, rfl⟩
     exact (hg w (hs1 hw1)).eventually_constant_or_nhds_le_map_nhds.resolve_left (h w (hs1 hw1))
         (image_mem_map (hs2.mem_nhds hw1))
+
+/--
+Corollary to the open mapping theorem: A holomorphic function whose real part is constant is itself
+constant.
+-/
+theorem AnalyticOnNhd.constant_if_re_constant {U : Set ℂ} {c₀ : ℝ} (h₁f : AnalyticOnNhd ℂ f U)
```
Comment (j-loreaux) [inline Mathlib/Analysis/Complex/OpenMapping.lean]:
```suggestion
theorem AnalyticOnNhd.eq_const_of_re_eq_const {U : Set ℂ} {c₀ : ℝ} (h₁f : AnalyticOnNhd ℂ f U)
```

File: Mathlib/Analysis/Complex/OpenMapping.lean [hunk 2]
```diff
@@ -169,3 +172,51 @@ theorem AnalyticOnNhd.is_constant_or_isOpen (hg : AnalyticOnNhd ℂ g U) (hU : I
...
+  obtain ⟨z₀, _⟩ := h₂U.nonempty
+  by_contra h₅
+  grind [not_isOpen_singleton (c₀ : ℝ), (by aesop : (re '' (f '' U)) = { c₀ }), isOpenMap_re
+    (f '' U) ((h₁f.is_constant_or_isOpen h₂U.isPreconnected).resolve_left h₅ U (by tauto) h₁U)]
+
+/--
+Corollary to the open mapping theorem: A holomorphic function whose real part is constant is itself
+constant.
+-/
+theorem AnalyticOnNhd.constant_if_re_constant₁ {U : Set ℂ} {c₀ : ℝ} (h₁f : AnalyticOnNhd ℂ f U)
```
Comment (j-loreaux) [inline Mathlib/Analysis/Complex/OpenMapping.lean]: As I mentioned on the other PR, we use primes to distinguish similar declarations, but more informative names are always better.
```suggestion
theorem AnalyticOnNhd.eq_const_add_mul_I_of_re_eq_const {U : Set ℂ} {c₀ : ℝ} (h₁f : AnalyticOnNhd ℂ f U)
```

File: Mathlib/Analysis/Complex/OpenMapping.lean [hunk 3]
```diff
@@ -169,3 +172,51 @@ theorem AnalyticOnNhd.is_constant_or_isOpen (hg : AnalyticOnNhd ℂ g U) (hU : I
...
+  by_contra h₅
+  grind [not_isOpen_singleton (c₀ : ℝ), (by aesop : (im '' (f '' U)) = { c₀ }), isOpenMap_im
+    (f '' U) ((h₁f.is_constant_or_isOpen h₂U.isPreconnected).resolve_left h₅ U (by tauto) h₁U)]
+
+/--
+Corollary to the open mapping theorem: A holomorphic function whose imaginary part is constant is
+itself constant.
+-/
+theorem AnalyticOnNhd.constant_if_im_constant₁ {U : Set ℂ} {c₀ : ℝ} (h₁f : AnalyticOnNhd ℂ f U)
+    (h₂f : ∀ x ∈ U, (f x).im = c₀) (h₁U : IsOpen U) (h₂U : IsConnected U) :
```
Comment (j-loreaux) [inline Mathlib/Analysis/Complex/OpenMapping.lean]: likewise naming.

**Review by j-loreaux — COMMENTED** [review]
bors d+

**Review by j-loreaux — COMMENTED** [review]
bors merge
